US04032656
To an ice-cold solution of 1.7 g. of sodium borohydride in 100 ml. of dimethylformide is added 9.2 g. of 3,6-dimethoxyphthalic anhydride. The cold bath is removed and the mixture stirred for one hour. The mixture is cooled in ice and 20 ml. of hydrochloric acid is slowly added. The solvent is removed in vacuo and the residue is slurried in 100 ml. of water. The resulting solid is filtered, dissolved in chloroform and dried. After removal of solvent, the solid is recrystallized from toluene to yield 4,7-dimethoxyphthalide with a melting point of 168°-170° C.

reactant | sodium borohydride | [BH4-].[Na+]
reactant | 3,6-dimethoxyphthalic anhydride | COC1=C2C(C(=O)OC2=O)=C(C=C1)OC | C10H8O5
product | 4,7-dimethoxyphthalide | COC1=C2COC(=O)C2=C(C=C1)OC | C10H10O4
